US06770667B1
A suspension of 3-chloro6-(3-nitro-phenyl)pyridazine (0.34 g) in tetrhydrofuran (5 ml) and ethanol (5 ml) was hydrogenated over palladium on carbon (10% w/w, 50% wet, 100 mg) under hydrogen atmosphere for 10 hours. The catalyst was filtered off and the filtrate was evaporated under reduced pressure. The residue was diluted with ethyl acetate and an aqueous solution of sodium hydrogen carbonate. The separated organic layer was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure to give 3-pyridazin-3-yl-phenylamine (155 mg, 62.8%).

reactant | 3-chloro6-(3-nitro-phenyl)pyridazine | 0.34 g | ClC=1N=NC(=CC1)C1=CC(=CC=C1)[N+](=O)[O-] | C10H6ClN3O2
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-pyridazin-3-yl-phenylamine | 155 mg, 62.8% | N1=NC(=CC=C1)C=1C=C(C=CC1)N | C10H9N3
